US07173133B2
rac-4-Phenyl-2,8-diaza-spiro[4.5]decan-1-one
A suspension of rac-8-benzyl-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one (28.8 g, 90 mmol) in MEOH:DCM (4:1, 500 mL) was hydrogenated in the presence of Pd (10% on C, 14 g, 132 mmol) at 2 bar for 48 h at room temperature. After filtration over celite, the reaction mixture was evaporated and the residue dissolved in NaOH (2 N, 200 mL). The product was extracted with DCM (3×150 mL) and the combined organic extracts dried over sodium sulfate. Filtration and evaporation afforded the title compound (13.1 g, 63%) as a white solid after trituration from diethylether. MS: m/e=231.4 (M+H).

reactant | rac-8-benzyl-4-phenyl-2,8-diaza-spiro[4.5]decan-1-one | 90 mmol, 28.8 g | C(C1=CC=CC=C1)N1CCC2(C(CNC2=O)C2=CC=CC=C2)CC1 | C21H24N2O
catalyst | Pd | 132 mmol, 14 g | [Pd] | Pd
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | rac-4-Phenyl-2,8-diaza-spiro[4.5]decan-1-one | 13.1 g, 63% | C1(=CC=CC=C1)C1CNC(C12CCNCC2)=O | C14H18N2O
